US04929634
Preparation of 2-(4-chlorophenyl)-5-trifluoromethylpyrrole-3,4-dicarbonitrile
Trifluoroacetic anhydride (3.1 mL; 0.022 mol) is added in a single portion to (4-chlorophenyl)glycine (2.0 g; 0.011 mol), causing an immediate yellow color and some refluxing. The mixture is slowly heated to reflux, causing all the material to dissolve to a yellow/orange solution which is heated 2 hours further. The reaction mixture is cooled, and solvent removed under reduced pressure. Toluene, is twice added and removed under reduced pressure to yield a very thick oil (VCO =1800 cm-1). This residue is dissolved (some insolubles) in CH3NO2 (40 mL) and bromofumaronitrile (2.7 g; 0.018 mol) is added in a single portion. The resulting solution is heated at reflux 18 hours, yielding a dark red solution. Solvent is removed under reduced pressure and the dark residue is dissolved in CH2Cl2, some insolubles being removed by filtration. The material is fractionated via dry column chromatography (silica gel; 3% 2-PrOH in CH2Cl2), and appropriate fractions are taken. Evaporation of one fraction yields the desired compound as a yellow solid which is recrystallized from CH3CN (DARCO treatment) to yield a pale yellow solid (0.2 g). m.p. =238°-241° C. (some dec).

reactant | Trifluoroacetic anhydride | 0.022 mol, 3.1 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (4-chlorophenyl)glycine | 0.011 mol, 2.0 g | ClC1=CC=C(C=C1)NCC(=O)O | C8H8ClNO2
reactant | bromofumaronitrile | 0.018 mol, 2.7 g | Br/C(/C#N)=C\C#N | C4HBrN2
reactant | CH3NO2 | 40 mL | C[N+](=O)[O-] | CH3NO2
product | 2-(4-chlorophenyl)-5-trifluoromethylpyrrole-3,4-dicarbonitrile | ClC1=CC=C(C=C1)C=1NC(=C(C1C#N)C#N)C(F)(F)F | C13H5ClF3N3
